US08809339B2
2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrazin-2-yl)-benzamide
Into a 50-mL round bottom flask, was placed a solution of 2-nitro-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrazin-2-yl)benzamide (140 mg, 0.30 mmol, 1.00 equiv) in methanol/tetrahydrofuran (5 mL/2 mL). The mixture was treated with Pd/C and stirred under a hydrogen atmosphere for 1 h at room temperature. The solids were filtered out. The resulting solution was diluted with 50 mL of ethyl acetate. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 100 mg (76%) of 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrazin-2-yl)benzamide as a yellow solid.

reactant | 2-nitro-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrazin-2-yl)benzamide | 0.30 mmol, 140 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C(=O)NC2=NC=C(N=C2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C23H20F3N5O3
solvent | methanol tetrahydrofuran | 5 mL | CO.O1CCCC1
catalyst | Pd/C | [Pd] | Pd
product | 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)pyrazin-2-yl)-benzamide | NC1=C(C(=O)NC2=NC=C(N=C2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C23H22F3N5O
